US08232272B2
1-[4-(isobutylamino)-3-nitrophenyl]ethanone
To 24.5 g (133.8 mM) of 1-(4-fluoro-3-nitrophenyl)ethanone in 100 ml of acetonitrile and 11.2 g (133.8 mM) of sodium hydrogen carbonate are added 26.6 ml (267.6 mM) of isobutylamine. The reaction is exothermic: the temperature of the reaction medium is maintained below 50° C. and the resulting mixture is then stirred for 1 hour at room temperature. Demineralised water is added, and a solid precipitates out. The solid is filtered off and washed with water to give after drying 31.6 g of 1-[4-(isobutylamino)-3-nitrophenyl]ethanone in quantitative yield.

reactant | 1-(4-fluoro-3-nitrophenyl)ethanone | 133.8 mM, 24.5 g | FC1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C8H6FNO3
reactant | sodium hydrogen carbonate | 133.8 mM, 11.2 g | C(O)([O-])=O.[Na+]
reactant | isobutylamine | 267.6 mM, 26.6 ml | C(C(C)C)N | C4H11N
reactant | water | O | H2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-[4-(isobutylamino)-3-nitrophenyl]ethanone | quantitative yield | C(C(C)C)NC1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C12H16N2O3
